2158-03-01 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - On nitroprusside drip overnight
   Denies headache, visual changes, chest pain, dyspnea. Feeling well
   overall.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Nitroprusside - 1.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-3-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-1**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 70 (70 - 112) bpm
   BP: 129/68(84) {127/58(75) - 159/84(103)} mmHg
   RR: 21 (13 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    103 mL
                                                                    237 mL
   PO:
             30 mL
   TF:
   IVF:
                                                                    103 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                    655 mL
                                                                    275 mL
   Urine:
                                                                    155 mL
                                                                    275 mL
   Balance:
                                                                   -552 mL
                                                                    -38 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   Physical Examination
   GEN: NAD, hands in mitts
   HEENT: PERRL, EOMI, oral mucosa moist
   NECK: Supple
   PULM: CTAB anteriorly
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: BS+, soft, NT, ND
   EXT: no C/C/E
   NEURO: Oriented to month, year, current president. Did not know he was
   in hospital. Did not know exact date.
   Labs / Radiology
   265 K/uL
   12.1 g/dL
   124 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.4 mEq/L
   25 mg/dL
   100 mEq/L
   138 mEq/L
   35.1 %
   13.6 K/uL
        [image002.jpg]
                             [**2158-3-1**]  02:26 AM
   WBC
   13.6
   Hct
   35.1
   Plt
   265
   Cr
   0.8
   Glucose
   124
   Other labs: PT / PTT / INR:13.9/30.1/1.2, Ca++:8.9 mg/dL, Mg++:2.0
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   [**Age over 90 **] year old male with a history mild dementia and hypertension who
   presents from home with confusion and inability to perform his
   activities of daily living.  He suffered a fall with head trauma on
   [**2158-2-23**].
   # Altered Mental Status:
   Most likely related to new hemorrhage on CT scan.  Neurologic exam is
   currently non-focal with the exception of disorientation.  Unclear how
   far he is from his baseline.  UA negative.  No WBC count or fevers.  No
   localizing signs of infection.  No new medications.  Mental status
   significantly improves when restraints are removed. Mitts were placed
   overnight to prevent him from harming himself.
   - Attempt to reorient as much as possible
   - Low dose ativan for agitation (avoid haldol given Parkinson's)- will
   check thyroid profile
   - Limit medications which can worsen delerium
   # Intraparenchymal Hemorrhage:
   Right frontal lobe. Neurosurgery consulted in the emergency room,
   recommended repeat CT scan this AM as well as close blood pressure
   monitoring.  Blood pressure elevation highly correlated to agitation.
   Overnight was on nitroprusside drip to maintain SBP < 160.
   - Dose amlodipine 5 mg this AM and attempt to liberate from
   nitroprusside drip
   - Follow-up read on repeat head CT
   - Q4H neuro checks
   - Follow-up speech and swallow evaluation from this AM
   # Hypertension:
   Attempting to maintain SBP <160 as per NSGY. On nitroprusside drip
   overnight as above. Increased amlodipine to 5 mg daily. Attempt
   liberation from nitroprusside today.
   # [**Last Name (un) 5620**] Disease:
   Stable.  Increased tone and cog wheeling on exam.
   - Continue sinemet
   # Hypothyroidism:
   - Continue synthroid
   - Follow-up TSH
   ICU Care
   Nutrition: Initiate diet per speech and swallow recs
   Glycemic Control:  None needed at this time
   Lines:
   20 Gauge - [**2158-2-28**] 10:40 PM
   Prophylaxis:
   DVT: Heparin subcutaneous
   Stress ulcer: None indicated
   Communication:  Wife: [**Telephone/Fax (1) 5621**] (c) [**Telephone/Fax (1) 5622**] (h)
   Code status: DNR/DNI
   Disposition: Call-out to floor pending CT head and liberation from
   nitroprusside drip

2158-03-02 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CT head repeat no interval change, Nsurg S/O.
   - passed speech/swallow eval
   - weaned off nipride gtt, required nitropaste, restarted amlodipine
   - started captopril
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Nitroprusside : now off
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-3-1**] 09:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-2**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 94 (62 - 94) bpm
   BP: 170/89(111) {105/63(72) - 186/112(121)} mmHg
   RR: 11 (11 - 39) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    642 mL
                                                                    157 mL
   PO:
                                                                    240 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    402 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    745 mL
   Urine:
                                                                  1,920 mL
                                                                    745 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,278 mL
                                                                   -588 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General: Alert to self, [**Hospital 858**] Rehab, not date
   HEENT: PERRL, EOMI, oropharnyx clear
   Neck: JVP not elevated
   Cardiac: Irregularly irregular, s1 + s2, no murmurs, rubs, gallops
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   GI: soft, non-tender, non-distneded, +BS
   GU: foley draining clear yellow urine
   Ext: Warm and well perfused without clubbing, cyanosis or edema
   Neurologic:  PERRL, EOMI, unable to test vision but blinks to threat,
   no facial droops, talks easily, decreased muscle bulk and increased
   tone, + cog wheeling, strength 5/5 in all extremities, sensation intact
   to painful stimuli throughout, gait not tested
   Labs / Radiology
   232 K/uL
   12.3 g/dL
   109 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.2 mEq/L
   19 mg/dL
   98 mEq/L
   135 mEq/L
   34.1 %
   11.2 K/uL
        [image002.jpg]
                             [**2158-3-1**]  02:26 AM
                             [**2158-3-2**]  02:15 AM
   WBC
   13.6
   11.2
   Hct
   35.1
   34.1
   Plt
   265
   232
   Cr
   0.8
   0.8
   Glucose
   124
   109
   Other labs: PT / PTT / INR:13.9/30.1/1.2, Ca++:9.0 mg/dL, Mg++:1.9
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   [**Age over 90 **] year old male with a history mild dementia and hypertension who
   presents from home with confusion and inability to perform his
   activities of daily living found to have an intraparenchymal and
   subdural hemorrhage.
   .
   Intraparenchymal Hemorrhage:  Neurosurgery consulted in the emergency
   room, recommended repeat CT scan, which showed stable bleed, as well as
   close blood pressure monitoring.  Blood pressure elevation highly
   correlated to agitation. Nitroprusside drip now off
   - cont amlodipine, currently 5 mg daily, can increase if needed
   - limit use of restraints as much as possible
   - low dose ativan for agitation (has not needed this recently)
   - neuro checks
   .
   Altered Mental Status:  Most likely related to new hemorrhage on CT
   scan.  Neurologic exam is currently non-focal with the exception of
   disorientation.  Unclear how far he is from his baseline, though
   appears much improved today.  UA negative.  No fevers.  No localizing
   signs of infection.  No new medications.  Mental status significantly
   improved with restraints removed. Has passed speech and swallow eval.
   - supportive management for intraparenchymal hemorrhage.
   - attempt to reorient as much as possible
   - low dose ativan for aggitation (avoid haldol given Parkinson's)
   - limit medications which can worsen delerium
   .
   Hypertension:  As above, at home only on amlodipine 2.5 mg daily.
   Blood pressure worsned by agitation. Off nitroprusside gtt. On
   amlodipine and captopril
   - amlodipine 5 mg daily, can increase if needed
   - titrate captopril (can convert to lisinopril once correct dosing is
   achieved)
   .
   [**Last Name (un) 5620**] Disease:  Stable.  Increased tone and cog wheeling on exam.
   - continue sinemet
   .
   Hypothyroidism:
   - continue synthroid
   .
   FEN: No IVF, monitor electrolytes, diet regular with nectar
   prethickened liquids Pills whole or crushed with puree
   .
   Access: peripherals
   .
   Prophylaxis:  pneumoboots
   .
   Code: DNR/DNI
   .
   Communication:  Wife: [**Telephone/Fax (1) 5621**] (c) [**Telephone/Fax (1) 5622**] (h)
   .
   Disposition: ICU care for now, social work
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-3-1**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2158-03-03 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Was called-out to floor and did not receive bed assignment
   - Nitropaste not needed overnight to control blood pressure
   - Urine output decreased to ~15 mL/hr for several hours, but came up
   with PO liquid intake
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-3**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 67 (58 - 94) bpm
   BP: 122/67(80) {95/50(59) - 170/89(111)} mmHg
   RR: 13 (8 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    355 mL
                                                                    170 mL
   PO:
                                                                    220 mL
                                                                    170 mL
   TF:
   IVF:
                                                                    135 mL
   Blood products:
   Total out:
                                                                  1,275 mL
                                                                    111 mL
   Urine:
                                                                  1,275 mL
                                                                    111 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -920 mL
                                                                     59 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General: Alert to self, [**Hospital 858**] Rehab, not date
   HEENT: PERRL, EOMI, oropharnyx clear
   Neck: JVP not elevated
   Cardiac: Irregularly irregular, s1 + s2, no murmurs, rubs, gallops
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   GI: soft, non-tender, non-distneded, +BS
   GU: foley draining clear yellow urine
   Ext: Warm and well perfused without clubbing, cyanosis or edema
   Neurologic:  PERRL, EOMI, unable to test vision but blinks to threat,
   no facial droops, talks easily, decreased muscle bulk and increased
   tone, + cog wheeling, strength 5/5 in all extremities, sensation intact
   to painful stimuli throughout, gait not tested
   Labs / Radiology
   245 K/uL
   13.6 g/dL
   89 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.9 mEq/L
   25 mg/dL
   98 mEq/L
   135 mEq/L
   38.5 %
   12.4 K/uL
        [image002.jpg]
                             [**2158-3-1**]  02:26 AM
                             [**2158-3-2**]  02:15 AM
                             [**2158-3-3**]  02:05 AM
   WBC
   13.6
   11.2
   12.4
   Hct
   35.1
   34.1
   38.5
   Plt
   265
   232
   245
   Cr
   0.8
   0.8
   0.9
   Glucose
   124
   109
   89
   Other labs: PT / PTT / INR:13.1/29.6/1.1, Ca++:8.9 mg/dL, Mg++:2.3
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   [**Age over 90 **] year old male with a history mild dementia and hypertension who
   presents from home with confusion and inability to perform his
   activities of daily living found to have an intraparenchymal and
   subdural hemorrhage.
   Intraparenchymal Hemorrhage:  Neurosurgery consulted in the emergency
   room, recommended repeat CT scan, which showed stable bleed, as well as
   close blood pressure monitoring.  Blood pressure elevation highly
   correlated to agitation. Nitroprusside drip now off
   - cont amlodipine, currently 5 mg daily, can increase if needed
   - limit use of restraints as much as possible
   - low dose ativan for agitation (has not needed this recently)
   - neuro checks
   Altered Mental Status:  Most likely related to new hemorrhage on CT
   scan.  Neurologic exam is currently non-focal with the exception of
   disorientation.  Unclear how far he is from his baseline, though
   appears much improved today.  UA negative.  No fevers.  No localizing
   signs of infection.  No new medications.  Mental status significantly
   improved with restraints removed. Has passed speech and swallow eval.
   - supportive management for intraparenchymal hemorrhage.
   - attempt to reorient as much as possible
   - low dose ativan for aggitation (avoid haldol given Parkinson's)
   - limit medications which can worsen delerium
   Hypertension:  As above, at home only on amlodipine 2.5 mg daily.
   Blood pressure worsned by agitation. Off nitroprusside gtt. On
   amlodipine and captopril
   - amlodipine 5 mg daily, can increase if needed
   - titrate captopril (can convert to lisinopril once correct dosing is
   achieved)
   [**Last Name (un) 5620**] Disease:  Stable.  Increased tone and cog wheeling on exam.
   - continue sinemet
   Hypothyroidism:
   - continue synthroid
   ICU Care
   Nutrition: diet regular with nectar prethickened liquids Pills whole or
   crushed with puree
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-3-1**] 10:00 PM
   18 Gauge - [**2158-3-3**] 02:15 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Wife: [**Telephone/Fax (1) 5621**] (c) [**Telephone/Fax (1) 5622**] (h)
   Code status: DNR/DNI
   Disposition: ICU care for now, social work